US06723722B1
A solution of 1-(4-pyridyl)-4-piperidone (3.52 g) and hydrazine hydrate (1.25 q) in ethanol (50 ml) was stirred at room temperature for 15 hours. The reaction mixture was concentrated and the residue obtained was crystallized from ether to obtain [1-(4-pyridyl)-4-piperidinylidene]hydrazine (3.51 g) as colorless crystals.

reactant | 1-(4-pyridyl)-4-piperidone | 3.52 g | N1=CC=C(C=C1)N1CCC(CC1)=O | C10H12N2O
reactant | hydrazine hydrate | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | [1-(4-pyridyl)-4-piperidinylidene]hydrazine | 3.51 g | N1=CC=C(C=C1)N1CCC(CC1)=NN | C10H14N4
